US09102591B2
To a stirred solution of 1-(6-chloro-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile (1.3 g, 5.1 mmol) in butyronitrile (100 mL) at room temperature under nitrogen atmosphere was added bromotrimethylsilane (1.55 g, 10.2 mmol). The reaction mixture was heated at 120° C. for 24 hours. The reaction mixture was then cooled to room temperature and poured into water (25 mL) and 10% aqueous NaOH solution (25 mL). The aqueous layer was extracted with diethyl ether (3×250 mL). The combined organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude residue was then purified by column chromatography on silica gel to afford 1-(6-bromo-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile as a white solid (1.0 g, 65%). LC-MS (m/z) 301.0 (MH+). 1H NMR (400 MHz, CDCl3) δ ppm 8.55 (d, J=2.7 Hz, 1 H), 7.69 (dd, J=8.4, 2.8 Hz, 1 H), 7.57 (d, J=8.4 Hz, 1 H), 2.09-2.41 (m, 8 H).

reactant | 1-(6-chloro-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile | 5.1 mmol, 1.3 g | ClC1=CC=C(C=N1)C1(CCC(CC1)(F)F)C#N | C12H11ClF2N2
reactant | bromotrimethylsilane | 10.2 mmol, 1.55 g | Br[Si](C)(C)C | C3H9BrSi
reactant | water | 25 mL | O | H2O
reactant | NaOH | 25 mL | [OH-].[Na+]
solvent | butyronitrile | 100 mL | C(CCC)#N | C4H7N
product | 1-(6-bromo-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile | 1.0 g, 65% | BrC1=CC=C(C=N1)C1(CCC(CC1)(F)F)C#N | C12H11BrF2N2
